US04230707
A mixture of 5 g (0.0226 mol) of 4-amino-2,5-dimethyl-3-thiophenecarboxylic acid, methyl ester and 3.5 g (0.0226 mol) of 6-chloro-3-pyridinecarboxamide (Aldrich Chemical Company) is heated in an oil bath at 180° C. for thirty minutes. The mixture is cooled, dissolved in hot pyridine, cooled, the precipitate collected and dissolved in hot methanol, activated charcoal (Darco-G60, Matheson, Coleman and Bell) is added and the hot suspension is filtered through Supercell Hyflo® (Johns-Manville). The filtrate is cooled to give 0.2 g of 1,3-dimethyl-10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide with methanol (1:0.125); mp 272°-275° C. after recrystallization from methanol.

reactant | 4-amino-2,5-dimethyl-3-thiophenecarboxylic acid, methyl ester | 0.0226 mol, 5 g | NC=1C(=C(SC1C)C)C(=O)OC | C8H11NO2S
reactant | 6-chloro-3-pyridinecarboxamide | 0.0226 mol, 3.5 g | ClC1=CC=C(C=N1)C(=O)N | C6H5ClN2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,3-dimethyl-10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide | 0.2 g | CC=1SC(=C2N=C3N(C(C21)=O)C=C(C=C3)C(=O)N)C | C13H11N3O2S
